US09388105B2
Production of 2-isobutoxy-propanol
20 g of 2-isopropyl-1,3-dioxolane and 100 g of ethylene glycol were combined in a 300 mL stainless steel autoclave. 2.0 g of 5% Pd/C catalyst were added and the autoclave was sealed. The reactor was heated to 200° C. The reactor was then brought to an operating pressure of 3.45 MPa and stirring commenced at 750 rpm. Pressure was maintained through the duration of the experiment. After 2 h, the autoclave was cooled and remaining gas vented. The autoclave was opened, its contents filtered, and the filtrate analyzed by gas chromatography (GC). 83% conversion of the acetal mixture was observed. Upon analysis of the results, the mixture was found to demonstrate 95.8% selectivity to 2-isobutoxy-ethanol.

reactant | 2-isopropyl-1,3-dioxolane | 20 g | C(C)(C)C1OCCO1 | C6H12O2
reactant | ethylene glycol | 100 g | C(CO)O | C2H6O2
catalyst | Pd/C | 2.0 g | [Pd] | Pd
product | 2-isobutoxy-propanol | C(C(C)C)OC(CO)C | C7H16O2
